US04281009
34.5 Grams of 4,4'-dimethoxy-3-methylbenzophenone, 66.7 g of potassium cyanide and 232.2 g of ammonium hydrogencarbonate were heated to 120° C. together with 500 ml. of formamide and 100 ml. of water with stirring in an autoclave. After 72 hours, the reaction liquid was made acidic with concentrated hydrochloric acid, mixed with water and allowed to stand overnight. The precipitates thus formed were filtered out. The precipitates were dissolved in acetone, decolorized by active carbon under heating and recrystallized from hexane-acetone to obtain 22.7 g of 5-(4-methoxy-3-methylphenyl)-5-(4-methoxyphenyl)-hydantoin in the form of white crystals.

reactant | 4,4'-dimethoxy-3-methylbenzophenone | COC1=C(C=C(C(=O)C2=CC=C(C=C2)OC)C=C1)C | C16H16O3
reactant | potassium cyanide | 66.7 g | [C-]#N.[K+]
reactant | ammonium hydrogencarbonate | 232.2 g | C(O)([O-])=O.[NH4+]
reactant | formamide | C(=O)N | CH3NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-(4-methoxy-3-methylphenyl)-5-(4-methoxyphenyl)-hydantoin | 22.7 g | COC1=C(C=C(C=C1)C1(C(NC(N1)=O)=O)C1=CC=C(C=C1)OC)C | C18H18N2O4
